US07795265B2
Step A: Methyl 3-nitro-1-naphthoate.
To a suspension of 22.0 g (0.101 mol) of 3-nitro-1-napthalene-carboxylic acid (prepared according to procedures in Duffy, K. J., et. al. J. Med. Chem. 2001, 44, 3730-3745) in 1,000 mL of anhydrous dichloromethane at 0° C. under an atmosphere of nitrogen was added 9.8 mL (0.11 mol) of oxalyl chloride followed by 0.80 mL (10 mmol) of anhydrous N,N-dimethylformamide. The reaction mixture was allowed to gradually warm to ambient temperature for 3 h until gas evolution ceased, and the resulting homogeneous solution was concentrated in vacuo to remove all volatiles. The residue was then dissolved in 1 L of anhydrous dichloromethane and 20 mL (0.51 mol) of anhydrous methanol was added. After stirring for 1 h, the reaction was carefully quenched with a saturated aqueous sodium bicarbonate solution (500 mL). The organic layer was separated and the aqueous layer was extracted with dichloromethane (2×250 mL). The combined organic layers were washed with brine (300 mL), dried over magnesium sulfate, filtered and concentrated in vacuo to yield the title compound as a pale yellow solid which was used without further purification. LC/MS 232.2 (M+1). Step B: Methyl 3-amino-1-naphthoate. To 1.15 g (1.08 mmol) of 10% palladium on carbon was added a suspension of 11.6 g (50.0 mmol) of the above methyl 3-nitro-1-naphthoate in 150 mL of anhydrous ethanol and 40 mL of anhydrous dichloromethane. The resulting suspension was agitated under an atmosphere of hydrogen at 40 psi for 3 h during which time all solids dissolved. The reaction mixture was filtered through a plug of Celite®, which was subsequently washed with dichloromethane (300 mL). The combined filtrates were concentrated in vacuo to yield the title compound as a pale green gum which was used without further purification. LC/MS 202.1 (N+1). Step C: Methyl 3-bromo-1-naphthoate. A solution of 4.34 g (62.9 mmol) of sodium nitrite in 40 mL of water was added dropwise to a 0° C. solution of 11.5 g (57.2 mmol) of methyl 3-amino-1-naphthoate in 300 mL of ethanol and 60 mL of 48% aqueous hydrobromic acid while maintaining an internal reaction temperature below 10° C. After complete addition of the aqueous solution the resulting dark red reaction mixture was stirred at 0° C. for an additional 30 min. The cooled (0° C.) reaction mixture was then added over 20 min. to a suspension of 8.21 g (57.2 mmol) of cuprous bromide in 60 mL of ethanol and 60 mL of 48% aqueous hydrobromic acid heated to 95° C. After stirring for 30 min. the reaction mixture was cooled to 0° C. and carefully partitioned between ethyl ether (250 mL) and water (600 mL). The organic layer was separated and the aqueous layer was extracted with ethyl ether (2×300 mL). The combined organic layers were washed with brine (100 mL), dried over magnesium sulfate, filtered and concentrated in vacuo. The residue was passed through a plug of silica gel eluting with 30% dichloromethane in hexanes and the filtrate concentrated in vacuo. Flash chromatography on a Biotage® purification apparatus (silica gel, 7% dichloromethane/hexanes) yielded the title compound as a colorless solid. 1H NMR (DMSO-d6): δ 8.67 (d, J=8.4 Hz, 1H), 8.50 (s, 1H), 8.15 (s, 1H), 8.02 (d, J=8.0 Hz, 1H), 7.68-7.71 (m, 1H), 7.63-7.66 (t, J=7.6 Hz, 1H), 3.94 (s, 3H). LC/MS 265.0 (M+1) and 267.0 (M+3). Step D: (3-Bromo-1-naphthyl)methanol. To a solution of 5.10 g (19.2 mmol) of the above methyl 3-bromo-1-naphthoate in 20 mL of anhydrous tetrahydrofuran at −78° C. under an atmosphere of nitrogen was added 48 mL (48 mmol) of a 1.0 M solution of diisobutylaluminum hydride in toluene. The resulting solution was allowed to gradually warm to 0° C. over 90 min and quenched with a saturated aqueous solution of potassium sodium tartrate (25 mL). The resulting suspension was vigorously stirred with gradual warming to ambient temperature over 2 h and the layers separated. The aqueous layer was extracted with ethyl acetate (3×20 mL) and the combined organic layers were washed with brine (30 mL), dried over magnesium sulfate, filtered and concentrated in vacuo to afford the title compound as a white solid which was used without further purification LC/MS 237.0 (M+1) and 239.0 (M+3). Step E: [(3-Bromo-1-naphthyl)methoxy](triisopropyl)silane. To a solution of 4.56 g (19.2 mmol) of (3-bromo-1-naphthyl)methanol in 10 mL of anhydrous N,N-dimethylformamide was added 2.88 g (42.3 mmol) of imidazole, 117 mg (0.962 mmol) of 4-(dimethylamino)pyridine and 4.5 mL (21 mmol) of triisopropylsilyl chloride. The resulting solution was stirred at ambient temperature for 15 h, diluted with a saturated aqueous ammonium chloride solution (100 mL) and extracted with ether (3×40 mL). The combined organic layers were washed with water (2×30 mL) then brine (25 mL), dried over magnesium sulfate, filtered and concentrated in vacuo. The crude residue was purified on a Biotage® purification apparatus (silica gel, 3% methylene chloride in hexanes) to yield intermediate 9 as a colorless oil. LC/MS 393.0 (M+1) and 395.0 (M+3).

reactant | sodium nitrite | 62.9 mmol, 4.34 g | N(=O)[O-].[Na+]
reactant | methyl 3-amino-1-naphthoate | 57.2 mmol, 11.5 g | NC=1C=C(C2=CC=CC=C2C1)C(=O)OC | C12H11NO2
solvent | water | 40 mL | O | H2O
solvent | ethanol | 300 mL | C(C)O | C2H6O
solvent | hydrobromic acid | 60 mL | Br | BrH
solvent | ethanol | 60 mL | C(C)O | C2H6O
solvent | hydrobromic acid | 60 mL | Br | BrH
product | Methyl 3-nitro-1-naphthoate | [N+](=O)([O-])C=1C=C(C2=CC=CC=C2C1)C(=O)OC | C12H9NO4
